US05846995
N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)benzamide
Beginning with 9.0 mg (0.029 mMol) of N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate and 5.06 mg (0.036 mMol) of benzoyl chloride, 7.02 mg (52%) of the title compound were recovered by the procedure described in Example 2.

reactant | N,N-dimethyl-8-amino-1,2,3,4-tetrahydro-2-dibenzofuranamine dihydrochloride hemihydrate | 0.029 mMol, 9.0 mg | O.Cl.Cl.CN(C1CC2=C(OC3=C2C=C(C=C3)N)CC1)C.CN(C1CC3=C(OC2=C3C=C(C=C2)N)CC1)C.Cl.Cl
reactant | benzoyl chloride | 0.036 mMol, 5.06 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-(N,N-Dimethyl-1,2,3,4-tetrahydro-2-aminodibenzofur-8-yl)benzamide | 7.02 mg, 52% | CN(C1CC2=C(OC3=C2C=C(C=C3)NC(C3=CC=CC=C3)=O)CC1)C | C21H22N2O2
